US04540732
3-(3,5-Di-tert-butyl-2-hydroxyphenylthio)propanoic acid (2-ethylhexyl)ester
The procedure of Example 1 was repeated using 20.0 grams of 2,4-di-tert-butyl-6-mercaptophenol, 15.5 grams of 2-ethylhexyl acrylate, 0.25 ml of triethylamine and 150 mls of toluene. The residue was purified by chromatography on silica gel using toluene/heptane eluent to give 12.4 g (35% yield) of a colorless oil.

reactant | 2,4-di-tert-butyl-6-mercaptophenol | 20.0 grams | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)S)O | C14H22OS
reactant | 2-ethylhexyl acrylate | 15.5 grams | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mls | C1(=CC=CC=C1)C | C7H8
product | 3-(3,5-Di-tert-butyl-2-hydroxyphenylthio)propanoic acid (2-ethylhexyl)ester | 12.4 g, 35% yield | C(C)C(COC(CCSC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)=O)CCCC | C25H42O3S
